US06753316B1
To a solution of 200 mg of 3-(1-methyl-4 (1-methyl-4-(1-methyl-3-nitropyrazole-5-carboxamido)pyrrole-2-carboxamido)pyrrole-2-carboxamido)propionamidine hydrochloride (prepared as described in WO 96/05196) in 10 ml of acetonitrile and 10 ml of water, 2 ml of NaOH 1N were added. The solution was heated at 60° C. for 4 hours then the solvent was evaporated in vacuo and the crude residue was purified by flash chromatography (methylene chloride/methanol: 10/1) affording 175 mg of 3-(1-methyl-4(1-methyl-4-(1-methyl-3-nitropyrazole-5-carboxamido)pyrrole-2-carboxamido)pyrrole-2-carboxamido)propionamide as a light yellow solid.

reactant | 3-(1-methyl-4 (1-methyl-4-(1-methyl-3-nitropyrazole-5-carboxamido)pyrrole-2-carboxamido)pyrrole-2-carboxamido)propionamidine hydrochloride | 200 mg | Cl.CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C1=CC(=NN1C)[N+](=O)[O-])C)C(=O)NCCC(=N)N
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | NaOH | 1N, 2 ml | [OH-].[Na+]
product | 3-(1-methyl-4(1-methyl-4-(1-methyl-3-nitropyrazole-5-carboxamido)pyrrole-2-carboxamido)pyrrole-2-carboxamido)propionamide | 175 mg | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C1=CC(=NN1C)[N+](=O)[O-])C)C(=O)NCCC(=O)N | C20H23N9O6
